US05506242
To a solution of N-benzyl-D-alanine methyl ester (~2 g) in methylene chloride (40 mL) containing triethylamine (2.47 mL, 17.7 mmol) is added 4-methoxybenzenesulfonyl chloride (2.44 g, 11.8 mmol). The reaction mixture is stirred overnight at room temperature. The mixture is acidified with 1N HCl and extracted with methylene chloride. The combined organic extracts are washed with brine, dried (Na2SO4), and the solvent is evaporated. The crude product is purified by silica gel chromatography (10%-→20% ethyl acetate/hexanes) to provide methyl 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]propionate.

reactant | N-benzyl-D-alanine methyl ester | ~2 g | COC([C@H](NCC1=CC=CC=C1)C)=O | C11H15NO2
reactant | triethylamine | 17.7 mmol, 2.47 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 11.8 mmol, 2.44 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | methyl 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]propionate | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OC)C)CC1=CC=CC=C1 | C18H21NO5S
